baker-252 enhanced
* simple noiseless opamp with RC feedback
* compare E source and code model gain stage
* ngspice-40+ required

.control
set sqrnoise
noise V(vout) Vplus dec 100 1 1000G
print all
noise V(vouta) Vplusa dec 100 1 1000G
print all
.endc

Vplus Vplus 0 dc 0 ac 1
Rf vout vminus 100k
Cf vout vminus 1000p
Eopamp vout 0 vplus vminus 100Meg

Vplusa Vplusa 0 dc 0 ac 1
Rfa vouta vminusa 100k
Cfa vouta vminusa 1000p
a1 %vd(vplusa, vminusa) vouta amp
.model amp gain(gain=1e8)

.end
